US06313072B1
4-Methyl-2-methylthio-6-(4-trifluoromethylphenyl)-pyrimidine
0.236 g of 1,4-bis(diphenylphosphino)butane and 0.20 g bis(benzonitrile)-palladium(II)chloride are refluxed in 10 m toluene under nitrogen for 2 hrs. At room temperature 0.95 g 4-chloro-6-methyl-2-methylthio-pyrimidine, 1.24 g 4-trifluoromethylphenyl boronic acid, 1.38 g sodium hydrogen carbonate, 30 ml water and 40 ml dioxane are added, and the mixture is heated to reflux for 5 hrs. The organic phase is washed with water and chromatographed to give 1.15 g of the title compound.

reactant | 1,4-bis(diphenylphosphino)butane | 0.236 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | 4-chloro-6-methyl-2-methylthio-pyrimidine | 0.95 g | ClC1=NC(=NC(=C1)C)SC | C6H7ClN2S
reactant | 4-trifluoromethylphenyl boronic acid | 1.24 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium hydrogen carbonate | 1.38 g | C(O)([O-])=O.[Na+]
catalyst | bis(benzonitrile)-palladium(II)chloride | 0.20 g | [Pd](Cl)Cl.C(C1=CC=CC=C1)#N.C(C1=CC=CC=C1)#N
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-2-methylthio-6-(4-trifluoromethylphenyl)-pyrimidine | 1.15 g | CC1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)SC | C13H11F3N2S
